US04978793
To a 250 ml round bottom flask equipped with a stir bar was added 5 g (0.03 mol) tris(hydroxymethyl) nitromethane, 3.75 g (0.36 mol) 2,2-dimethoxypropane, 100 ml acetonitrile and 6 drops concentrated hydrochloric acid. The reaction was heated to 80° C. for 18 hours. After cooling to room temperature tte volatiles were removed in vacuo to give a white solid 2,2-dimethyl-5-hydroxy methyl-5-nitro-1,3-dioxane in 82% yield.

reactant | tris(hydroxymethyl) nitromethane | 0.03 mol, 5 g | OCC([N+](=O)[O-])(CO)CO | C4H9NO5
reactant | 2,2-dimethoxypropane | 0.36 mol, 3.75 g | COC(C)(C)OC | C5H12O2
catalyst | hydrochloric acid | 6 drops | Cl | ClH
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2,2-dimethyl-5-hydroxy methyl-5-nitro-1,3-dioxane | 82% yield | CC1(OCC(CO1)([N+](=O)[O-])CO)C | C7H13NO5
